US04698352
In 15 ml of methanol was dissolved 0.2 g of methyl 6-(4-benzyloxycarbonylaminocyclohexyl)-1-(4-hydroxy-2-methylphenyl)-4-oxo-1,4-dihydronicotinate, and 0.05 g of 5% by weight palladium carbon was added to the resulting solution, and the above ester was hydrogenated under atmospheric pressure for 1.5 hours. Then, the catalyst was removed by filtration, and the solvent was removed by distillation under reduced pressure. To the residue was added 0.4 g of 37% by weight formalin and 0.1 g of formic acid, and they were reacted at 100° C. for 7.5 hours. After completion of this reaction, the solvent was removed by distillation under reduced pressure, and the residue was purified by a column chromatography (Wako Silica Gel C-200; eluent: chloroform/ethanol (3:1 by volume) mixture) to obtain 0.04 g of 6-(4-dimethylaminocyclohexyl)-1-(4-hydroxy-2-methylphenyl)-4-oxo-1,4-dihydronicotinic acid having a melting point of 207°-215° C.

reactant | methyl 6-(4-benzyloxycarbonylaminocyclohexyl)-1-(4-hydroxy-2-methylphenyl)-4-oxo-1,4-dihydronicotinate | 0.2 g | C(C1=CC=CC=C1)OC(=O)NC1CCC(CC1)C=1N(C=C(C(=O)OC)C(C1)=O)C1=C(C=C(C=C1)O)C | C28H30N2O6
reactant | methanol | 15 ml | CO | CH4O
catalyst | palladium carbon | [C].[Pd]
product | 6-(4-dimethylaminocyclohexyl)-1-(4-hydroxy-2-methylphenyl)-4-oxo-1,4-dihydronicotinic acid | 0.04 g | CN(C1CCC(CC1)C=1N(C=C(C(=O)O)C(C1)=O)C1=C(C=C(C=C1)O)C)C | C21H26N2O4
